US06337064B1
A) O-(4-hydroxyphenyl)-3,5-diiodo-L-tyrosine methyl ester
A 6 M solution of HCl in MeOH (8 mL; 48 mmol) was added to a suspension of O-(4-hydroxyphenyl)-3,5-diiodo-L-tyrosine (2.12 g; 5 mmol) (prepared according to: Chalmers J. R., Dickson G. T., Elks J. and Hems D. A., “The Synthesis of Thyroxine and Related Substances”, Part V., J. Chem. Soc., 3424-3433, 1949) in MeOH (12 mL). The resulting solution was left under stirring for 4 days at 20° C. Then an NaHCO3 aqueous saturated solution was added until pH 7, to obtain a precipitate which was filtered. After concentration of the solution, a second amount of precipitate was obtained. The two samples were combined and dried (50° C.; 1.3 kPa), to, give the desired product (2 g; 3.7 mmol). Yield 87%.

reactant | HCl | Cl | ClH
reactant | O-(4-hydroxyphenyl)-3,5-diiodo-L-tyrosine | 5 mmol, 2.12 g | OC1=CC=C(C=C1)OC1=C(C=C(C[C@H](N)C(=O)O)C=C1I)I | C15H13I2NO4
reactant | Thyroxine | N[C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)C(=O)O | C15H11I4NO4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 12 mL | CO | CH4O
solvent | MeOH | 48 mmol, 8 mL | CO | CH4O
product | O-(4-hydroxyphenyl)-3,5-diiodo-L-tyrosine methyl ester | 3.7 mmol, 2 g, Yield 87% | COC([C@@H](N)CC1=CC(=C(C(=C1)I)OC1=CC=C(C=C1)O)I)=O | C16H15I2NO4
